US07504411B2
A suspension of (S)-2-(4-bromophenyl)-1,4-di(t-butoxycarbonyl) piperazine (1.33 g, 3.00 mmol), (R)-3-pyrrolidinol (520 mg, 4.20 mmol), palladium acetate (27 mg, 0.12 mmol), 2-(di-t-butylphosphino)biphenyl (72 mg, 0.24 mmol), and sodium t-butoxide (808 mg, 8.41 mmol) in tert-butanol (20 mL) was heated at 90° C. for 3.5 h. After dilution with ethyl acetate, the resulting mixture was passed through a Celite column. The filtrate was concentrated in vacuo, and the residue was purified by silica gel column chromatography eluting 10-50% ethyl acetate-hexane to afford (S)-1,4-di-(t-butoxycarbonyl)-2-(4-((R)-3-hydroxypyrrolidino) phenyl)piperazine (733 mg, 54.5%) as a yellow foam.

reactant | (S)-2-(4-bromophenyl)-1,4-di(t-butoxycarbonyl) piperazine | 3.00 mmol, 1.33 g | BrC1=CC=C(C=C1)[C@@H]1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C20H29BrN2O4
reactant | (R)-3-pyrrolidinol | 4.20 mmol, 520 mg | N1C[C@@H](CC1)O | C4H9NO
reactant | 2-(di-t-butylphosphino)biphenyl | 0.24 mmol, 72 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium t-butoxide | 8.41 mmol, 808 mg | CC(C)([O-])C.[Na+]
solvent | tert-butanol | 20 mL | C(C)(C)(C)O | C4H10O
catalyst | palladium acetate | 0.12 mmol, 27 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-1,4-di-(t-butoxycarbonyl)-2-(4-((R)-3-hydroxypyrrolidino) phenyl)piperazine | 733 mg, 54.5% | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)N1C[C@@H](CC1)O | C24H37N3O5
